US09084794B2
b) 1,1-dimethylethyl 4-[(cyclopropylamino)methyl]-4-hydroxy-1-piperidinecarboxylate
A sealable reaction vessel was charged with 1,1-dimethylethyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (14.07 mmol), ethanol (70 mL) and cyclopropylamine (42.2 mmol). The vessel was purged with nitrogen, sealed and placed in a 75° C. oil bath for 20 h. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting oil was purified by silica gel chromatography (5% methanol in ethyl acetate). The appropriate fractions were concentrated under reduced pressure and dried to afford the title product (3.56 g, 94% yield) as a viscous colorless oil. MS(ES)+ m/e 271.4 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 4.20 (s, 1 H), 3.59 (d, J=12.6 Hz, 2 H), 3.05 (br. s., 2 H), 2.16-2.00 (m, 2 H), 1.49-1.31 (m, 14 H), 0.42-0.29 (m, 2 H), 0.24-0.13 (m, 2 H).

reactant | 1,1-dimethylethyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 14.07 mmol | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | cyclopropylamine | 42.2 mmol | C1(CC1)N | C3H7N
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 1,1-dimethylethyl 4-[(cyclopropylamino)methyl]-4-hydroxy-1-piperidinecarboxylate | 3.56 g, 94% yield | C1(CC1)NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C14H26N2O3
